US05753661
A solution of 1-(1,4-benzodioxan-5-yl)-4-(2-(2,2-dimethoxy-1-ethylamino)-1-ethyl)piperazine (2.3 g) and 4-fluorophenyl isocyanate (0.9 g) in methylene chloride (100 ml) was refluxed for 2 h. Removal of solvent in vacuo gave an oil which was purified on a silica gel column (eluent: ethyl acetate/methanol=3:1). The product, 1-(1,4-benzodioxan5-yl)-4-(2-(N-(2,2-dimethoxy 1-ethyl)-N-(4-fluorophenylaminocarbonyl)-amino)-1-ethyl)piperazine, was obtained as a solid (2.5 g).

reactant | 1-(1,4-benzodioxan-5-yl)-4-(2-(2,2-dimethoxy-1-ethylamino)-1-ethyl)piperazine | 2.3 g | O1CCOC2=C1C=CC=C2N2CCN(CC2)CCNCC(OC)OC | C18H29N3O4
reactant | 4-fluorophenyl isocyanate | 0.9 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-(1,4-benzodioxan5-yl)-4-(2-(N-(2,2-dimethoxy 1-ethyl)-N-(4-fluorophenylaminocarbonyl)-amino)-1-ethyl)piperazine | O1CCOC2=C1C=CC=C2N2CCN(CC2)CCN(C(=O)NC2=CC=C(C=C2)F)CC(OC)OC | C25H33FN4O5
